US06420567B1
To a solution of 5-nitrobenzo-2,1,3-thiadiazole in a mixture of dioxane (22 mL) and ethanol (22 mL) at RT added solid SnCl2 followed by addition of water (1 mL). The reaction mixture was warmed up to 50° C. and stirred for 10 min, cooled to RT, concentrated and partitioned between ethyl acetate/1N NaOH. The organic layer was washed with 1N NaOH, water, brine, dried over MgSO4 and charcoal. Evaporation of the solvent gave 5-aminobenzo-2,1,3-thiadiazole as a yellow powder (3.0 g, 88%).

reactant | 5-nitrobenzo-2,1,3-thiadiazole | [N+](=O)([O-])C1=CC=2C(=NSN2)C=C1 | C6H3N3O2S
reactant | SnCl2 | Cl[Sn]Cl
reactant | water | 1 mL | O | H2O
solvent | dioxane | 22 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | 22 mL | C(C)O | C2H6O
product | 5-aminobenzo-2,1,3-thiadiazole | 3.0 g, 88% | NC1=CC=2C(=NSN2)C=C1 | C6H5N3S
